US05096948
2,6-di-t-butyl-p-cresol;
distearyl (4-hydroxy-3-methyl-5-t-butyl)benzylmalonate; 2,2'-methylenebis(4-methyl-6-t-butylphenol); 4,4'-methylenebis(2,6-di-t-butylphenol); 2,2'-methylenebis[6-(1-methylcyclohexyl)p-cresol]; bis[3,3-bis(4-hydroxy-3-t-butylphenyl)butyric acid]glycol ester; 4,4'-butylidenebis(6-t-butyl-m-cresol); 1,1,3-tris(2-methyl-4-hydroxy-5-t-butylphenyl)butane; 1,3,5-tris(3,5-di-t-butyl-4-hydroxybenzyl)-2,4,6-trimethylbenzene; 3,9-bis[1,1-dimethyl-2-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]-2,4,8,10-tetraoxaspiro-[5.5]undecane; 1,3,5-tris(3,5-di-t-butyl-4-hydroxybenzyl)isocyanurate and bis[3-(3,5-di-t-butyl-4-hydroxyphenyl)propionyl]oxamide.

reactant | 2,2'-methylenebis(4-methyl-6-t-butylphenol) | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | 4,4'-methylenebis(2,6-di-t-butylphenol) | C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C29H44O2
reactant | 2,2'-methylenebis[6-(1-methylcyclohexyl)p-cresol] | C(C1=CC(=CC(=C1O)C1(CCCCC1)C)C)C1=CC(=CC(=C1O)C1(CCCCC1)C)C | C29H40O2
reactant | 4,4'-butylidenebis(6-t-butyl-m-cresol) | C(CCC)(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C26H38O2
reactant | 1,1,3-tris(2-methyl-4-hydroxy-5-t-butylphenyl)butane | CC1=C(C=C(C(=C1)O)C(C)(C)C)C(CC(C)C1=C(C=C(C(=C1)C(C)(C)C)O)C)C1=C(C=C(C(=C1)C(C)(C)C)O)C | C37H52O3
reactant | 1,3,5-tris(3,5-di-t-butyl-4-hydroxybenzyl)-2,4,6-trimethylbenzene | C(C)(C)(C)C=1C=C(CC2=C(C(=C(C(=C2C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)C=C(C1O)C(C)(C)C | C54H78O3
reactant | 3,9-bis[1,1-dimethyl-2-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]-2,4,8,10-tetraoxaspiro-[5.5]undecane | CC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C1OCC2(CO1)COC(OC2)C(CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)(C)C | C43H68O6
reactant | bis[3-(3,5-di-t-butyl-4-hydroxyphenyl)propionyl]oxamide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NC(C(NC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O)=O | C36H52N2O6
product | 2,6-di-t-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
